US08278441B2
Racemic (3aRS,5RS,6aSR)-6a-(3-Bromo-4-fluorophenyl)-1-(2,4-dimethoxybenzyl)hexahydro-1H-cyclopenta[c]isoxazol-5-ol
To a solution of 6a-(3-bromo-4-fluorophenyl)-5-(tert-butyldimethylsilyloxy)-1-(2,4-dimethoxybenzyl)hexahydro-1H-cyclopenta[c]isoxazole (3.00 g, 4.77 mmol) in THF (10 mL) is added 1 N tetrabutylammonium fluoride solution in THF (7.15 mL, 7.15 mmol). After stirring at room temperature for 2 hours, the reaction mixture is concentrated under reduced pressure to afford a residue that is diluted with dichloromethane and washed with water and brine. The organic layer is dried over sodium sulfate, filtered, and the filtrate is concentrated under reduced pressure to give a residue that is purified by silica gel chromatography eluting with a linear gradient of 0% to 10% methanol in dichloromethane over 20 minutes to give the title compound as a diastereomeric mixture (2.26 g, 100%). This mixture is purified again on silica gel chromatography to separate the diastereomers eluting with a linear gradient of 0% to 15% ethyl acetate in hexanes over 15 minutes to give the title compound as a racemic mixture (0.852 g, 37%). ES/MS m/e (79Br/81Br) 452, 454 (M+1).

reactant | 6a-(3-bromo-4-fluorophenyl)-5-(tert-butyldimethylsilyloxy)-1-(2,4-dimethoxybenzyl)hexahydro-1H-cyclopenta[c]isoxazole | 4.77 mmol, 3.00 g | BrC=1C=C(C=CC1F)C12N(OCC1CC(C2)O[Si](C)(C)C(C)(C)C)CC2=C(C=C(C=C2)OC)OC | C27H37BrFNO4Si
reactant | tetrabutylammonium fluoride | 1 N | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | THF | 7.15 mmol, 7.15 mL | C1CCOC1 | C4H8O
product | Racemic (3aRS,5RS,6aSR)-6a-(3-Bromo-4-fluorophenyl)-1-(2,4-dimethoxybenzyl)hexahydro-1H-cyclopenta[c]isoxazol-5-ol | BrC=1C=C(C=CC1F)C12N(OCC1CC(C2)O)CC2=C(C=C(C=C2)OC)OC | C21H23BrFNO4
